US07064124B2
N-[6-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoyl]-4-methoxyaniline
p-Methoxyaniline (13 mg, 0.1056 mmol), triethylamine (15 mg, 0.1485 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (24 mg, 0.1420 mmol) were added to a methylene chloride solution (3 ml) of 6-(5,6-dimethoxy-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoic acid (29 mg, 0.0687 mmol) and the resulting solution was stirred at room temperature for 3 hours. The reaction solution was poured into ice water and then extracted with ether. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (hexand:ethyl acetate=1:1) to obtain the titled compound (20 mg, 0.0687 mmol, 55%).

reactant | p-Methoxyaniline | 0.1056 mmol, 13 mg | COC1=CC=C(N)C=C1 | C7H9NO
reactant | triethylamine | 0.1485 mmol, 15 mg | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.1420 mmol, 24 mg | [Cl-].ClC1[NH+](CCN1C)C
reactant | 6-(5,6-dimethoxy-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoic acid | 0.0687 mmol, 29 mg | COC=1C(C=C(C(C1OC)=O)CC1=CC=CC(=C1C(=O)O)OCC1=CC=CC=C1)=O | C23H20O7
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | N-[6-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-benzyloxybenzoyl]-4-methoxyaniline | 0.0687 mmol, 20 mg, 55% | COC=1C(C(=C(C(C1OC)=O)CC1=CC=CC(=C1C(=O)NC1=CC=C(C=C1)OC)OCC1=CC=CC=C1)C)=O | C31H29NO7
